US06066639
A mixture of methyl 5-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]-pyrimidin-6-yl)ethenyl]pyrrole-2-carboxylate (593 mg, 1.5 mmol) and platinum oxide (68 mg) in glacial acetic acid (200 mL) was stirred overnight under hydrogen (50 psi). The reaction mixture was filtered through Celite and the filtrate was concentrated in vacuo. The solid was recrystallized from methanol to give methyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylate as an off-white solid (505 mg, 84%), mp 246-248° C.: 1H NMR (DMSO-d6) δ 11.67 (s, I H), 10.90 (br s, 1H), 10.60 (br s, 1H), 6.66 (s, 1H), 6.45 (s, 1H), 5.91 (s, 1H), 3.72 (s, 3H), 3.22 (brd, 1H, J=10.5 Hz), 2.81 (m, 1H), 2.64 (m, 2H), 2.52 (brd, 1H, J=15.2 Hz), 1.88 (dd, 1H, J=15.2, 7.9 Hz), 1.68-1.50 (m, 3H), 1.21 (s, 9H).

reactant | methyl 5-[2-(2-pivaloylamino-4-hydroxypyrido[2,3-d]-pyrimidin-6-yl)ethenyl]pyrrole-2-carboxylate | 1.5 mmol, 593 mg | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)N=CC(=C2)C=CC2=CC=C(N2)C(=O)OC)O | C20H21N5O4
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 68 mg | [Pt]=O
product | methyl 5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)ethyl]pyrrole-2-carboxylate | 505 mg, 84% | C(C(C)(C)C)(=O)NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(N2)C(=O)OC)O | C20H27N5O4
